US06284748B1
A solution of 3,4-dichloro-2-furoic acid (1 mmol) in diethyl ether was treated with LDA (3 mmol) at −78° C. for 30 min and then treated with diethyl chlorophosphate (3.5 mmol) at −78° C. for 1 h. The reaction was quenched and extracted to give 5-diethylphosphono-3,4-dichloro-2-furoic acid as a yellow foam.

reactant | 3,4-dichloro-2-furoic acid | 1 mmol | ClC1=C(OC=C1Cl)C(=O)O | C5H2Cl2O3
reactant | LDA | 3 mmol | [Li+].CC(C)[N-]C(C)C
reactant | diethyl chlorophosphate | 3.5 mmol | P(=O)(OCC)(OCC)Cl | C4H10ClO3P
solvent | diethyl ether | C(C)OCC | C4H10O
product | 5-diethylphosphono-3,4-dichloro-2-furoic acid | C(C)OP(=O)(OCC)C1=C(C(=C(O1)C(=O)O)Cl)Cl | C9H11Cl2O6P
